US08350044B2
Preparation of ethyl 2-(pyridin-3-yl)thiazole-4-carboxylate
To a suspension of thionicotinamide (30.0 g, 217.1 mmol) in EtOH (400 mL) at room temperature was added ethyl bromopyruvate (90% technical, 30.6 mL, 219 mmol). The reaction mixture was heated to reflux and stirred for 2.5 days. The reaction mixture was cooled to room temperature and the precipitate that formed upon cooling was collected via vacuum filtration. The cake was rinsed twice with hexanes. This solid was added to a separatory funnel containing ethyl acetate and saturated aqueous NaHCO3. The biphasic mixture was separated and the organic layer was washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified using silica gel chromatography, (0 to 100% ethyl acetate/hexanes) to afford the desired product as a tan solid (24.1 g, 47%): mp 73-75° C.; 1H NMR (300 MHz, CDCl3) δ 9.19 (dd, J=2.6, 1.0 Hz, 1H), 8.69 (dd, J=4.6, 1.6 Hz, 1H), 8.34 (dt, J=7.9, 1.6 Hz, 1H), 8.22 (s, 1H), 7.41 (ddd, J=7.9, 4.6, 1.0 Hz, 1H), 4.47 (q, J=6.9 Hz, 2H), 1.43 (t, J=6.9 Hz, 3H); ESIMS m/z 236.1 (M+2).

reactant | thionicotinamide | 217.1 mmol, 30.0 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
reactant | ethyl bromopyruvate | 219 mmol, 30.6 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | EtOH | 400 mL | CCO | C2H6O
product | ethyl 2-(pyridin-3-yl)thiazole-4-carboxylate | 24.1 g, 47% | N1=CC(=CC=C1)C=1SC=C(N1)C(=O)OCC | C11H10N2O2S
